US08980888B2
<Step 3> Synthesis of 1-amino-4-(methoxycarbonyl)pyridin-2(1H)-iminium 2,4,6-trimethylbenzenesulfonate
70% Perchloric acid (18.9 ml) was added to a 1,4-dioxane (26 ml) solution of (Z)-ethyl N-(mesitylsulfonyl)oxyacetimidate (11.7 g) at 4° C. over 20 minutes. Thereafter, the reaction solution was stirred at 3° C. for 30 minutes, and it was then poured into water (100 ml). The precipitated solid was collected by filtration, and was then washed with water (45 ml) to obtain a white solid as a crude product. Methyl 2-aminoisonicotinate (5 g) was added to methylene chloride (35 ml), and the obtained mixture was then cooled to 3° C. The obtained crude product was dissolved in methylene chloride (40 ml), and only an organic layer was added to a methylene chloride solution of 2-aminoisonicotinate. The obtained mixture was stirred at 3° C. for 30 minutes. Thereafter, methyl tert-butyl ether (50 ml) was added to the reaction solution, and the precipitated solid was collected by filtration. The collected solid was washed with methyl tert-butyl ether (20 nil), and was then dried at 45° C., so as to obtain the title compound (10.7 g) in the form of a light yellow solid.

reactant | Perchloric acid | 18.9 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | (Z)-ethyl N-(mesitylsulfonyl)oxyacetimidate | 11.7 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)O\N=C(\C)/OCC)C | C13H19NO4S
reactant | Methyl 2-aminoisonicotinate | 5 g | NC=1C=C(C(=O)OC)C=CN1 | C7H8N2O2
reactant | 2-aminoisonicotinate | NC=1C=C(C(=O)[O-])C=CN1
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methyl tert-butyl ether | 50 ml | C(C)(C)(C)OC | C5H12O
solvent | water | 100 ml | O | H2O
solvent | 1,4-dioxane | 26 ml | O1CCOCC1 | C4H8O2
product | 1-amino-4-(methoxycarbonyl)pyridin-2(1H)-iminium 2,4,6-trimethylbenzenesulfonate | 10.7 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].NN1C(C=C(C=C1)C(=O)OC)=[NH2+] | InChI=1S/C9H12O3S.C7H9N3O2/c1-6-4-7(2)9(8(3)5-6)13(10,11)12;1-12-7(11)5-2-3-10(9)6(8)4-5/h4-5H,1-3H3,(H,10,11,12);2-4,8H,9H2,1H3
